US07576215B2
4-PHENYL-3-(1-PHENYLETHYL)-8-(TRIFLUOROMETHYL)QUINOLINE
4-phenyl-3-(1-phenylvinyl)-8-(trifluoromethyl)quinoline (0.050 g, 0.133 mmol) and 5% Pd/C (0.010 g) in EtOH (7 mL) is hydrogenated on a Parr shaker (40 psi hydrogen) overnight. The reaction is filtered through Celite and concentrated. The product is chromatographed eluting with 2:98 ethyl acetate:hexanes to afford the title compound (0.051 g). MS (ESI) m/z 378; HRMS: calcd for C24H18F3N+H, 378.14696; found (ESI, [M+H]+), 378.1459.

reactant | 4-phenyl-3-(1-phenylvinyl)-8-(trifluoromethyl)quinoline | 0.133 mmol, 0.050 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=C)C1=CC=CC=C1 | C24H16F3N
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | Pd/C | 0.010 g | [Pd] | Pd
product | 4-PHENYL-3-(1-PHENYLETHYL)-8-(TRIFLUOROMETHYL)QUINOLINE | 0.051 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C)C1=CC=CC=C1 | C24H18F3N
